US05496946
Production of tert-butyl 4-(4-methoxy-3-butenyl)benzoate
A 1.0 mole tetrahydrofuran solution (11.0 ml) of potassium tert-butoxide was added to a toluene solution (12 ml) of (methoxymethyl)triphenylphosphonium chloride (3.77 g) at 0° C., and after stirring for 10 minutes, a toluene solution (10 ml) of tert-butyl 4-(3-oxopropyl)benzoate (2.34 g) was added dropwise to the mixture at the same temperature, followed by stirring at 0° C. for 20 minutes. The reaction solution was admixed with ether (40 ml), and the organic layer was separated, then washed successively with water and saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the thus obtained residue was treated with hexane, followed by filtering out the resultant triphenylphosphine oxide. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (80 g of silica gel; ether-hexane=20:1) to give the subject compound (1.92 g).

reactant | tetrahydrofuran | 1.0 mole, 11.0 ml | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 3.77 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tert-butyl 4-(3-oxopropyl)benzoate | 2.34 g | O=CCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C14H18O3
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(4-methoxy-3-butenyl)benzoate | 1.92 g | COC=CCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C16H22O3
